US04427589
9-Chloro-3-methyl-1-(methylthio)-7-phenyl-5H-pyrimido[4,5-d][2]benzazepine
In one portion 1.0 g (2.8 mmol) of 1,9-dichloro-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepine was added to a solution of 150 mg (3.1 mmol) of 50% mineral oil dispersion of sodium hydride and an excess of methyl mercaptan (>3.1 mmol) in 25 mL of dimethylformamide. The mixture was stirred at room temperature for 30 min and diluted with water. The resulting precipitate was collected by filtration to give a yellow solid. Recrystallization from a mixture of ether and methylene chloride gave pale yellow prisms, mp 181°-183°.

reactant | 1,9-dichloro-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepine | 2.8 mmol, 1.0 g | ClC1=NC(=NC=2CN=C(C3=C(C21)C=CC(=C3)Cl)C3=CC=CC=C3)C | C19H13Cl2N3
reactant | sodium hydride | [H-].[Na+]
reactant | methyl mercaptan | >3.1 mmol | CS | CH4S
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 9-Chloro-3-methyl-1-(methylthio)-7-phenyl-5H-pyrimido[4,5-d][2]benzazepine | ClC1=CC2=C(C3=C(CN=C2C2=CC=CC=C2)N=C(N=C3SC)C)C=C1 | C20H16ClN3S
